simulator lang=spectre
global 0

ahdl_include "./dut/source_crossing_pulse_detector.va"

Vin (sigin 0) vsource type=pwl wave=[0 0.1 4n 0.1 5n 0.8 14n 0.8 15n 0.1 24n 0.1 25n 0.8 34n 0.8 35n 0.1 45n 0.1]
XDUT (sigin sigout) source_crossing_pulse_detector

tran tran stop=28n maxstep=50p
save sigin sigout
